US05104888
6-Acetoxy-4-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman (Step F1)
160 mg of sodium borohydride were added to a mixture of 1.8 g of 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 47), 15 ml of methanol and 1 ml of benzene in an ice bath, and the mixture was stirred for 30 minutes. The reaction mixture was then poured into ice-water, neutralized with 10% w/v aqueous hydrochloric acid and extracted with benzene. The benzene extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography eluted with a 9:1 by volume mixture of benzene and ethyl acetate, to give crystals. These crystals were recrystallized from a mixture of benzene and hexane to give the title compound, melting at 139°-141° C.

reactant | sodium borohydride | 160 mg | [BH4-].[Na+]
reactant | 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 1.8 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C | C22H23NO7
reactant | methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy-4-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)O)C | C22H25NO7
